US07943613B2
In argon atmosphere, 0.15 M Solution of tri-tert-butylphosphine in cyclohexane (12.0 mL, 18.0 mmol) was added to a stirred suspension of copper(I) iodide (350 mg, 1.8 mmol) and dichloro(bisbenzonitrile)palladium (350 mg, 0.9 mmol) in tetrahydrofuran (100 mL) at ambient temperature. The mixture was stirred for 5 min, N,N-diisopropylamine (4.5 mL, 30 mmol) was added, the mixture was stirred for next 5 min and then a solution of 4-bromobenzophenone (3.92 g, 15 mmol) and phenylacetylene (2.30 g, 22.5 mmol) in tetrahydrofuran (20 mL) was added dropwise during 15 min. The reaction mixture was stirred at ambient temperature overnight and then diluted with benzene (200 mL). The benzene solution was washed with water (2×80 mL) and 1.5 M aqueous solution of tartaric acid (30 mL); the organic solution was dried with anhydrous magnesium sulfate and subsequently evaporated in vacuo. The residue was purified by column chromatography (silica gel Fluka 60, hexane/ethyl acetate 95:5) yielding phenyl-[4-(phenylethynyl)phenyl]methanone.

reactant | tri-tert-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | cyclohexane | 18.0 mmol, 12.0 mL | C1CCCCC1 | C6H12
reactant | N,N-diisopropylamine | 30 mmol, 4.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | 4-bromobenzophenone | 15 mmol, 3.92 g | BrC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9BrO
reactant | phenylacetylene | 22.5 mmol, 2.30 g | C1(=CC=CC=C1)C#C | C8H6
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
catalyst | copper(I) iodide | 1.8 mmol, 350 mg | [Cu]I
product | phenyl-[4-(phenylethynyl)phenyl]methanone | C1(=CC=CC=C1)C(=O)C1=CC=C(C=C1)C#CC1=CC=CC=C1 | C21H14O
